US05965741
A solution of 5-bromo-2-benzyloxybenzaldehyde, prepared from commercial 5-bromosalicylicaldehyde by benzylation according to the method given in Reference example 22a), (25 g, 74.6 mmol) in toluene (250 ml) was treated with ethylene glycol (5 ml), and p-toluenesulfonic acid (0.24 g). The reaction was heated to reflux with azeotropic removal of water (Dean Stark trap). After 2.5 hrs, no further water was collected. The reaction was cooled to ambient temperature and washed with saturated aqueous NaHCO3, dried (MgSO4 and evaporated to give 2-(2-benzyloxy-5-bromophenyl)-1,3-dioxolane as a pale orange solid (26.8 g). This material was used without purification.

reactant | 5-bromo-2-benzyloxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)OCC1=CC=CC=C1 | C14H11BrO2
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.24 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-benzyloxy-5-bromophenyl)-1,3-dioxolane | 26.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C1OCCO1 | C16H15BrO3
